USRE037478E1
A stirred mixture of 3,5-dibromo-4-hydroxyacetophenone (3.0 g, 10.1 mmol), K2CO2 (2.9 g, 20.3mmol), 1,3-dibromopropane (4.0 g, 19.8 mmol) in acetonitrile (100 ml) was heated at reflux for 5 hours. The solvent was removed. The crude product was extracted into dichloromethane (150 ml) and the insoluble inorganics were filtered off. The solution was concentrated to dryness again. Purification was carried out by flash chromatography on silica gel (45 g, SiO2; eluted with 1:1 hexane:dichloromethane). The material thus obtained (2.9 g) was recrystallized twice from isopropyl ether to give analytically pure 1-[4-(3-bromopropoxy)-3,5-dibromophenyl]ethanone, m.p.=87°-88° C.

reactant | 3,5-dibromo-4-hydroxyacetophenone | 10.1 mmol, 3.0 g | CC(=O)C1=CC(=C(C(=C1)Br)O)Br | C8H6Br2O2
reactant | 1,3-dibromopropane | 19.8 mmol, 4.0 g | BrCCCBr | C3H6Br2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 1-[4-(3-bromopropoxy)-3,5-dibromophenyl]ethanone | BrCCCOC1=C(C=C(C=C1Br)C(C)=O)Br | C11H11Br3O2
